US05521220
A. (1R, 2S)-1-Hydroxy-1-phenyl-2-[(2-methoxy)-phenyl-methylamino]propane
A solution of 1.00 g (6.61 mmol) (1R, 2S)-(-)-norephedrine and 1.12 g (8.26 mmol) of o-anisaldehyde in 20 ml of acetic acid was treated with 1.5 g of 3 Å molecular sieves. The mixture was treated with 2.8 g (13.22 mmol) of sodium triacetoxyborohydride in 0.1 g increments over 20 minutes. The reaction mixture was stirred at room temperature for 18 hours under a nitrogen atmosphere. The reaction was judged to be complete by thin layer analysis (eluting with 9:1 methylene chloride:methanol), the mixture was filtered and the filtrate was evaporated in vacuo. The residue was taken up in 25 ml of water and the mixture was treated with 1N HCl until the solution pM was approximately 3. The aqueous phase was extracted twice with ether (25 ml) and was then treated with 2N NaOH until pH 12 was reached. The aqueous layer was again extracted with ether (3×50 ml). The organic layer was dried with magnesium sulfate and was evaporated to dryness. There were obtained 1.11 g (62% yield) of a white solid after chromatography (eluting with 95% ethyl acetate/5% triethyl amine) on silica gel. M.P. 84°-86° C. 1H NMR (CDCl3, 300 MHz) δ 7.39-7.21 (7 H, m), 7.0-6.92 (1H, t, J=8.5 Hz), 6.91-6.88 (1H, d, J=8.0 Hz), 4.82 (d, 1H, J=4.0 Hz), 3.90 (s, 2H), 3.82 (s, 3H), 2.97-2.88 (dq, 1H, J=7 Hz, J=4.0 Hz), 0.82 (d, 3H, J=7 Hz) ppm. 13C NMR (DEPT, CDCl3, 75.47 MHz) δ 157.74 (s), 141.65 (s), 129.86 (d) , 128.50 (d), 128.14 (s), 128.05 (d), 126.93 (d), 126.12 (d), 120.49 (d), 110.36 (d), 72.83 (d), 57.25 (d), 55.23 (q), 46.68 (t), 14.77 (q) ppm. IR (KBr) λ 3500-2400 (br), 1600, 1480, 1460, 1240, 1050, 1030 cm-1. HRMS calc'd for C17H21NO2 : 271.1567. Found 271.1603.

reactant | (1R, 2S)-(-)-norephedrine | 6.61 mmol, 1.00 g | C[C@@H]([C@@H](C1=CC=CC=C1)O)N | C9H13NO
reactant | o-anisaldehyde | 8.26 mmol, 1.12 g | C(C=1C(=CC=CC1)OC)=O | C8H8O2
reactant | sodium triacetoxyborohydride | 13.22 mmol, 2.8 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | (1R, 2S)-1-Hydroxy-1-phenyl-2-[(2-methoxy)-phenyl-methylamino]propane | 1.11 g, 62% yield | O[C@@H]([C@H](C)N(C)C1=C(C=CC=C1)OC)C1=CC=CC=C1 | C17H21NO2
